US07132426B2
Step 3: Preparation of 1-(4-Methanesulfonyl-phenyl)-2-nitro-ethanone oxime.
To a solution of 1-(4-methanesulfonyl-phenyl)-2-nitro-ethanone (12.5 g, 51.4 mmol) in ethanol (100 mL), was added NH2OH.HCl (3.57 g, 51.4 mmol) and acetic acid (33 mL) at room temperature. The reaction was refluxed for 3 h and cooled to room temperature. The reaction was concentrated under vacuum and extracted with ethyl acetate (200 mL). The reaction was concentrated to afford the crude compound which was recrystallized from petroleum ether/hexane (1/3) as white crystals (10.3 g, 83.4%). 1H NMR (400 Mz, DMSO-d6) δ 12.81 (s, 1H), 8.03 (m, 4H), 5.93 (s, 2H), 3.28 (s, 3H). LCMS 259.2[M+H].

reactant | 1-(4-methanesulfonyl-phenyl)-2-nitro-ethanone | 51.4 mmol, 12.5 g | CS(=O)(=O)C1=CC=C(C=C1)C(C[N+](=O)[O-])=O | C9H9NO5S
reactant | NH2OH.HCl | 51.4 mmol, 3.57 g | NO.Cl
reactant | acetic acid | 33 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(4-Methanesulfonyl-phenyl)-2-nitro-ethanone oxime | CS(=O)(=O)C1=CC=C(C=C1)C(C[N+](=O)[O-])=NO | C9H10N2O5S
